.include TSMC_180nm.txt
.global gnd vdd

VDD vdd gnd dc 1.8V

.option scale=0.09u


M1000 vdd Pi a_6_40# vdd CMOSP w=20 l=2
+  ad=560 pd=246 as=200 ps=100
M1001 out a_64_8# gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=300 ps=170
M1002 gnd Gi a_64_8# Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=60 ps=32
M1003 PiCi a_6_40# gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1004 a_64_30# PiCi vdd vdd CMOSP w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1005 a_13_6# Pi gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1006 a_64_8# Gi a_64_30# vdd CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1007 out a_64_8# vdd vdd CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1008 PiCi a_6_40# vdd vdd CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1009 a_6_40# Ci a_13_6# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1010 a_6_40# Ci vdd vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 a_64_8# PiCi gnd Gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
C0 Pi a_6_40# 0.12fF
C1 a_6_40# PiCi 0.09fF
C2 out Gi 0.02fF
C3 a_6_40# vdd 0.18fF
C4 Pi Ci 0.06fF
C5 Ci vdd 0.08fF
C6 a_64_8# PiCi 0.05fF
C7 a_64_8# a_64_30# 0.00fF
C8 a_64_8# vdd 0.13fF
C9 Pi vdd 0.08fF
C10 Gi gnd 0.04fF
C11 PiCi vdd 0.12fF
C12 a_64_8# Gi 0.22fF
C13 a_64_8# out 0.05fF
C14 a_6_40# gnd 0.02fF
C15 PiCi Gi 0.07fF
C16 a_6_40# Ci 0.20fF
C17 Gi vdd 0.06fF
C18 out vdd 0.03fF
C19 gnd Gnd 0.35fF
C20 out Gnd 0.06fF
C21 a_64_8# Gnd 0.15fF
C22 a_6_40# Gnd 0.14fF
C23 Ci Gnd 0.11fF
C24 Pi Gnd 0.11fF
C25 Gi Gnd 0.13fF
C26 PiCi Gnd 0.14fF
C27 vdd Gnd 4.28fF

VGi Gi gnd PULSE(0 1.8 0p 1p 1p 10n 20n)
VPi Pi gnd PULSE(0 1.8 0p 1p 1p 20n 40n)
VCi Ci gnd PULSE(0 1.8 0p 1p 1p 10n 20n)

.tran 100p 300n

.control

run
plot V(Pi) V(Ci)+2 V(Gi)+4 V(PiCi)+6 V(out)+8 

.endc

.end