.include TSMC_180nm.txt
.global gnd vdd

VDD vdd gnd dc 1.8V

.option scale=0.09u

M1000 X D gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=250 ps=140
M1001 Y CLK vdd vdd CMOSP w=20 l=2
+  ad=100 pd=50 as=500 ps=240
M1002 Q Qbar gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1003 a_14_34# D vdd vdd CMOSP w=40 l=2
+  ad=160 pd=88 as=0 ps=0
M1004 a_66_32# Y gnd Gnd CMOSN w=10 l=2
+  ad=40 pd=28 as=0 ps=0
M1005 Qbar CLK a_66_32# Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1006 X CLK a_14_34# vdd CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1007 Qbar Y vdd vdd CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1008 a_44_22# X Y Gnd CMOSN w=20 l=2
+  ad=80 pd=48 as=100 ps=50
M1009 gnd CLK a_44_22# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 Q Qbar vdd vdd CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0

C0 gnd CLK 0.19fF
C1 gnd X 0.25fF
C2 D CLK 0.10fF
C3 Q Qbar 0.03fF
C4 CLK Y 0.10fF
C5 Q vdd 0.03fF
C6 Qbar Y 0.02fF
C7 vdd D 0.10fF
C8 vdd Y 0.14fF
C9 X CLK 0.36fF
C10 vdd CLK 0.13fF
C11 X vdd 0.03fF
C12 Qbar vdd 0.13fF
C13 gnd Gnd 0.43fF
C14 Q Gnd 0.03fF
C15 X Gnd 0.24fF
C16 Qbar Gnd 0.12fF
C17 Y Gnd 0.12fF
C18 CLK Gnd 1.29fF
C19 D Gnd 0.11fF
C20 vdd Gnd 3.68fF

VA0 Clk gnd PULSE(0 1.8 0n 1p 1p 50n 100n)
VD D gnd PULSE(0 1.8 50n 1p 1p 100n 200n)

.meas TRAN tsu TRIG V(D) VAL=0.9 FALL=1 TARG V(X) VAL=0.9 RISE=1
.meas TRAN th TRIG V(Clk) VAL=0.9 RISE=3 TARG V(Y) VAL=0.9 FALL=2
.meas TRAN tpcq TRIG V(Clk) VAL=0.9 RISE=3 TARG V(Q) VAL=0.9 FALL=1

.tran 10p 300n 
.ic V(Qbar)=1.8

.control
run
set curplottitle = 'GauriKrishnan_2024102073_TSPC_DFF'
plot V(Clk) V(D)+2 V(Q)+4
* plot V(C0) V(C1)+2 V(C2)+4 V(C3)+6 V(C4)+8 V(C5)+10
.endc

.end
