.include TSMC_180nm.txt
.param LAMBDA = 0.09u
.param width_N = {10*LAMBDA}
.param width_P = 2*width_N

vdd vdd gnd dc 1.8V

Va a 0 PULSE(0 1.8 0u 1p 1p 50n 100n)
Vb b 0 PULSE(0 1.8 0u 1p 1p 100n 200n)

*d g s b*

*nor*
M1 x a vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M2 norOut b x vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M3 norOut a gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4 norOut b gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}



.tran 1p 200n

.control

run
plot V(a) V(b)+2 V(out)+4
.endc

.end

*inverter*
M5 out norOut vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M6 out norOut gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}