.include TSMC_180nm.txt
.param LAMBDA=0.09u
.global gnd vdd
.param width_N={10*LAMBDA}
.param width_P=2*width_N

vdd vdd gnd dc 1.8V

.subckt andGate a b out vdd gnd 
    M1 nandOut a vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 nandOut b vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    M3 nandOut a x gnd CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    M4  x b gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    *inverter*
    M5 out nandOut vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M6 out nandOut gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends andGate

.subckt orGate a b out vdd gnd 
    M1 x a vdd vdd CMOSP W={4*width_N} L={2*LAMBDA} 
    + AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
    M2 norOut b x vdd CMOSP W={4*width_N} L={2*LAMBDA} 
    + AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}

    M3 norOut a gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    M4 norOut b gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    *inverter*
    M5 out norOut vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M6 out norOut gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends orGate

.subckt xorGate a b fout vdd gnd 
    M1p x a vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2n x a gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    M3p xout b a vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M4n xout b x gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    *buffer*
    M5 out xout vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M6 out xout gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    M7 fout out vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M8 fout out gnd gnd CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends xorGate

.subckt op pi ci gi out vdd gnd 
    Xand pi ci out1 vdd gnd andGate
    Xor out1 gi out vdd gnd orGate
.ends op

* .subckt load in out vdd gnd width_Nm=10*LAMBDA
*     Mp out in vdd vdd CMOSP W={4*width_Nm} L={2*LAMBDA} 
*     + AS={5*4*width_Nm*LAMBDA} PS={10*LAMBDA+2*4*width_Nm} AD={5*4*width_Nm*LAMBDA} PD={10*LAMBDA+2*4*width_Nm}
*     Mn out in gnd gnd CMOSN W={width_Nm} L={2*LAMBDA}
*     + AS={5*width_Nm*LAMBDA} PS={10*LAMBDA+2*width_Nm} AD={5*width_Nm*LAMBDA} PD={10*LAMBDA+2*width_Nm}
* .ends load

.subckt dff D Clk Q vdd gnd width=10*LAMBDA
    *D to X*
    M3 Z D vdd vdd CMOSP W={4*width} L={2*LAMBDA} 
    + AS={5*4*width*LAMBDA} PS={10*LAMBDA+2*4*width} AD={5*4*width*LAMBDA} PD={10*LAMBDA+2*4*width}
    M2 X Clk Z vdd CMOSP W={4*width} L={2*LAMBDA} 
    + AS={5*4*width*LAMBDA} PS={10*LAMBDA+2*4*width} AD={5*4*width*LAMBDA} PD={10*LAMBDA+2*4*width}
    M1 X D gnd gnd CMOSN W={width} L={2*LAMBDA}
    + AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}

    *X to Y*
    M6 Y Clk vdd vdd CMOSP W={2*width} L={2*LAMBDA} 
    + AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}
    M5 Y X W gnd CMOSN W={2*width} L={2*LAMBDA}
    + AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}
    M4 W Clk gnd gnd CMOSN W={2*width} L={2*LAMBDA}
    + AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}

    *Y to Qbar*
    M9 Qbar Y vdd vdd CMOSP W={2*width} L={2*LAMBDA} 
    + AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}
    M8 Qbar Clk V gnd CMOSN W={width} L={2*LAMBDA}
    + AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}
    M7 V Y gnd gnd CMOSN W={width} L={2*LAMBDA}
    + AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}

    *Qbar to Q - inverter*
    M10 Q Qbar vdd vdd CMOSP W={2*width} L={2*LAMBDA} 
    + AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}
    M11 Q Qbar gnd gnd CMOSN W={width} L={2*LAMBDA}
    + AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}
.ends dff

VClk Clk gnd PULSE(0 1.8 100p 1p 1p 2n 4n)

VC0 C0 gnd dc 0

VA0 A0in gnd PULSE(0 1.8 0p 1p 1p 20n 40n)
VA1 A1in gnd PULSE(0 1.8 0p 1p 1p 20n 40n)
VA2 A2in gnd PULSE(0 1.8 0p 1p 1p 20n 40n)
VA3 A3in gnd PULSE(0 1.8 0p 1p 1p 20n 40n)
VA4 A4in gnd PULSE(0 1.8 0p 1p 1p 20n 40n) 

VB0 B0in gnd dc 1.8V
VB1 B1in gnd dc 0
VB2 B2in gnd dc 0
VB3 B3in gnd dc 0
VB4 B4in gnd dc 0

XDA0 A0in Clk A0 vdd gnd dff width=10*LAMBDA 
XDA1 A1in Clk A1 vdd gnd dff width=10*LAMBDA
XDA2 A2in Clk A2 vdd gnd dff width=10*LAMBDA
XDA3 A3in Clk A3 vdd gnd dff width=10*LAMBDA
XDA4 A4in Clk A4 vdd gnd dff width=10*LAMBDA

XDB0 B0in Clk B0 vdd gnd dff width=10*LAMBDA
XDB1 B1in Clk B1 vdd gnd dff width=10*LAMBDA
XDB2 B2in Clk B2 vdd gnd dff width=10*LAMBDA
XDB3 B3in Clk B3 vdd gnd dff width=10*LAMBDA
XDB4 B4in Clk B4 vdd gnd dff width=10*LAMBDA

XP0 A0 B0 P0 vdd gnd xorGate
XP1 A1 B1 P1 vdd gnd xorGate
XP2 A2 B2 P2 vdd gnd xorGate
XP3 A3 B3 P3 vdd gnd xorGate
XP4 A4 B4 P4 vdd gnd xorGate

XG0 A0 B0 G0 vdd gnd andGate
XG1 A1 B1 G1 vdd gnd andGate
XG2 A2 B2 G2 vdd gnd andGate
XG3 A3 B3 G3 vdd gnd andGate
XG4 A4 B4 G4 vdd gnd andGate

Xop1 P0 C0 G0 C1 vdd gnd op
Xop2 P1 C1 G1 C2 vdd gnd op
Xop3 P2 C2 G2 C3 vdd gnd op
Xop4 P3 G2 G3 Cbefore4 vdd gnd op
XP3P2 P3 P2 P3P2 vdd gnd andGate
Xop5 P3P2 C2 Cbefore4 C4 vdd gnd op
Xop6 P4 C4 G4 C5 vdd gnd op

XS0 C0 P0 S0 vdd gnd xorGate
XS1 C1 P1 S1 vdd gnd xorGate
XS2 C2 P2 S2 vdd gnd xorGate
XS3 C3 P3 S3 vdd gnd xorGate
XS4 C4 P4 S4 vdd gnd xorGate

XDS0 S0 Clk S0out vdd gnd dff width=10*LAMBDA
XDS1 S1 Clk S1out vdd gnd dff width=10*LAMBDA
XDS2 S2 Clk S2out vdd gnd dff width=10*LAMBDA
XDS3 S3 Clk S3out vdd gnd dff width=10*LAMBDA
XDS4 S4 Clk S4out vdd gnd dff width=10*LAMBDA

XDC5 C5 Clk C5out vdd gnd dff width=10*LAMBDA

* .meas TRAN max TRIG V(a0) VAL=0.9 RISE=1 TARG V(C5) VAL=0.9 RISE=1
* .meas TRAN min TRIG V(a0) VAL=0.9 RISE=1 TARG V(S0) VAL=0.9 RISE=1

.tran 100p 300n

.control

run
plot V(A0) V(B0)+2 V(A1)+4 V(B1)+6 V(A2)+8 V(B2)+20 V(A3)+12 V(B3)+14 V(A4)+16 V(B4)+18
plot v(clk) V(S0out)+2 V(S1out)+4 V(S2out)+6 V(S3out)+8 V(S4out)+10 V(C5out)+12 
.endc

.end

