.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width={10*LAMBDA}
.global gnd vdd

VDD vdd gnd dc 1.8V

*D G S B* 

*D to X*
M3 Z D vdd vdd CMOSP W={4*width} L={2*LAMBDA} 
+ AS={5*4*width*LAMBDA} PS={10*LAMBDA+2*4*width} AD={5*4*width*LAMBDA} PD={10*LAMBDA+2*4*width}

M2 X Clk Z vdd CMOSP W={4*width} L={2*LAMBDA} 
+ AS={5*4*width*LAMBDA} PS={10*LAMBDA+2*4*width} AD={5*4*width*LAMBDA} PD={10*LAMBDA+2*4*width}

M1 X D gnd gnd CMOSN W={width} L={2*LAMBDA}
+ AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}

*X to Y*
M6 Y Clk vdd vdd CMOSP W={4*width} L={2*LAMBDA} 
+ AS={5*4*width*LAMBDA} PS={10*LAMBDA+2*4*width} AD={5*4*width*LAMBDA} PD={10*LAMBDA+2*4*width}

M5 Y X W gnd CMOSN W={2*width} L={2*LAMBDA}
+ AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}

M4 W Clk gnd gnd CMOSN W={2*width} L={2*LAMBDA}
+ AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}

*Y to Qbar*

M9 Qbar Y vdd vdd CMOSP W={2*width} L={2*LAMBDA} 
+ AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}

M8 Qbar Clk V gnd CMOSN W={width} L={2*LAMBDA}
+ AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}

M7 V Y gnd gnd CMOSN W={width} L={2*LAMBDA}
+ AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}

*Qbar to Q - inverter*
M10 Q Qbar vdd vdd CMOSP W={2*width} L={2*LAMBDA} 
+ AS={5*2*width*LAMBDA} PS={10*LAMBDA+2*2*width} AD={5*2*width*LAMBDA} PD={10*LAMBDA+2*2*width}

M11 Q Qbar gnd gnd CMOSN W={width} L={2*LAMBDA}
+ AS={5*width*LAMBDA} PS={10*LAMBDA+2*width} AD={5*width*LAMBDA} PD={10*LAMBDA+2*width}

*load*
M12 out Q vdd vdd CMOSP W={6*width} L={2*LAMBDA} 
+ AS={5*6*width*LAMBDA} PS={10*LAMBDA+2*6*width} AD={5*6*width*LAMBDA} PD={10*LAMBDA+2*6*width}

M13 out Q gnd gnd CMOSN W={3*width} L={2*LAMBDA}
+ AS={5*3*width*LAMBDA} PS={10*LAMBDA+2*3*width} AD={5*3*width*LAMBDA} PD={10*LAMBDA+2*3*width}

VA0 Clk gnd PULSE(0 1.8 0n 1p 1p 50n 100n)
VD D gnd PULSE(0 1.8 50n 1p 1p 100n 200n)

.meas TRAN tsu TRIG V(D) VAL=0.9 FALL=1 TARG V(X) VAL=0.9 RISE=1 
.meas TRAN th TRIG V(Clk) VAL=0.9 RISE=3 TARG V(Y) VAL=0.9 FALL=2 
.meas TRAN tPCQ TRIG V(Clk) VAL=0.9 RISE=3 TARG V(Q) VAL=0.9 FALL=1

.tran 10p 300n 
.ic V(Qbar)=1.8

.control
run
plot V(Clk) V(D)+2 V(Q)+4
* plot V(C0) V(C1)+2 V(C2)+4 V(C3)+6 V(C4)+8 V(C5)+10
.endc

.end
