.include TSMC_180nm.txt
.param LAMBDA = 0.09u
.param width_N = {10*LAMBDA}
.param width_P = 2*width_N

vdd vdd gnd dc 1.8V

Va a 0 PULSE(0 1.8 0u 1p 1p 50n 100n)
Vb b 0 PULSE(0 1.8 0u 1p 1p 100n 200n)

*d g s b*

*xor*
M1p x a vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M2n x a gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M3p xout b a vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M4n xout b x gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

*buffer*
M5 out xout vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M6 out xout gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M7 fout out vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M8 fout out gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

.tran 1p 200n

.control

run
plot V(a)+2 V(b)+4 V(fout)
.endc

.end